US08217069B2
6-(n-Butoxycarbonyl)-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-(2-hydroxy-ethoxy)phenyl]-2-methyl-7,9-dihydro-8H-purin-8-one
A mixture of 6-chloro-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyl-oxy)-4-(2-hydroxyethoxy)phenyl]-2-methyl-7,9-dihydro-8H-purin-8-one (0.62 g), palladium(II) acetate (26 mg), 1,3-bis(diphenylphosphino)propane (48 mg) and N,N-diisopropylethylamine (1.0 mL) in n-butanol (8 mL)-dimethyl sulfoxide (12 mL) was stirred at 110° C. under a carbon monoxide atmosphere in a reaction vessel equipped with a reflux condenser for 6 hours. The insoluble material was removed by filtration. To the filtrate was added 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residual crystals were suspended in diethyl ether, and collected by filtration. The collected crystals were washed with diethyl ether, and dried under reduced pressure to give the title compound (0.55 g).

reactant | 6-chloro-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyl-oxy)-4-(2-hydroxyethoxy)phenyl]-2-methyl-7,9-dihydro-8H-purin-8-one | 0.62 g | ClC1=C2NC(N(C2=NC(=N1)C)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OCCO)Cl)=O | C22H18Cl2F2N4O5
reactant | 1,3-bis(diphenylphosphino)propane | 48 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | N,N-diisopropylethylamine | 1.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 12 mL | CS(=O)C | C2H6OS
reactant | n-butanol | 8 mL | C(CCC)O | C4H10O
catalyst | palladium(II) acetate | 26 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(n-Butoxycarbonyl)-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-(2-hydroxy-ethoxy)phenyl]-2-methyl-7,9-dihydro-8H-purin-8-one | 0.55 g | C(CCC)OC(=O)C1=C2NC(N(C2=NC(=N1)C)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OCCO)Cl)=O | C27H27ClF2N4O7
